US08685969B2
4-(2-Fluorophenyl)-7-(isonicotinamido)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 7-amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (25 mg, 0.078 mmol), isonicotinic acid (11.53 mg, 0.094 mmol), BOP (49.7 mg, 0.112 mmol), and N-methylmorpholine (0.037 mL, 0.337 mmol) in DMF (0.25 mL) was stirred at room temperature for 1.5 hr. The mixture was diluted with MeOH (1.5 mL) and subjected to prep LC. reverse phase HPLC purification. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution to pH 9. The precipitating product (10.8 mg, 0.025 mmol, 32.5% yield) was collected as a pale solid by suction filtration. LCMS (M+H)+=426.14. 1H NMR (500 MHz, DMSO-d6) δ: 11.95 (s, 1H), 10.96 (s, 1H), 6.80 (m, 2H), 8.44 (s, 1H), 8.33 (s, 1H), 8.27 (s, 1H), 7.89 (m, 2H), 7.79 (s, 1H), 7.71-7.67 (m, 2H), 7.54-7.48 (m, 2H), 7.42 (dd, J1=8.6 Hz, J2=1.9 Hz, 1H), 7.28 (d, J=8.6 Hz, 1H).

reactant | 7-amino-4-(2-fluorophenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.078 mmol, 25 mg | NC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C=CC=C3)F)C(=O)N | C18H13FN4O
reactant | isonicotinic acid | 0.094 mmol, 11.53 mg | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | BOP | 0.112 mmol, 49.7 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 0.337 mmol, 0.037 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1.5 mL | CO | CH4O
product | 4-(2-Fluorophenyl)-7-(isonicotinamido)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.025 mmol, 10.8 mg, 32.5% yield | FC1=C(C=CC=C1)C1=CN=C(C=2NC3=CC(=CC=C3C21)NC(C2=CC=NC=C2)=O)C(=O)N | C24H16FN5O2
